US04537892
The tetrahydroimine product is aromatized in xylene and nitrobenzene and 10% palladium on charcoal according to Parcell and Hauch, ibid. The resulting product, e.g., 7-fluoro-5H-indeno[1,2-b] pyridine (which may be further derivatized according to Method V) is derivatized according to Methods II to IV to yield the corresponding spiro-derivatives such as spiro-(7-fluoro-5H-indeno[1,2-b]pyridin-5,5-thiazolidine)-2',4'-dione; spiro-(7-fluoro-5H-inden[1,2-b]pyridin-5,5'-(oxazolidine)-2',4'-dione and spiro-(7-fluoro-5H-indeno[1,2-b] pyridin-5,3'-suiccinimide. Oxidation (Method VII) of 5H-indeno [1,2-b]pyridine or its derivatives according to the method of Sprinzak, J. Amer. Chem. Soc., 80, 5449 (1958) yields the corresponding 5-one or ketone derivative, which may be further derivatized according to Method V. When reacted in accordance with Method I, the ketone will yield a spiro-hydantoin derivative such as spiro-(7-fluoro-5H-indeno[1,2-b]pyridin-5,4'-imidazolidine)-2',5'-dione. Any of the aforementioned spiro derivatives may be further derivatized, e.g., nitrated, in accordance with Method VI. See Example XVIII, XI and XII.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 7-fluoro-5H-indeno[1,2-b] pyridine | FC=1C=C2CC=3C(=NC=CC3)C2=CC1 | C12H8FN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium on charcoal | [Pd] | Pd
product | 7-fluoro-5H-indeno[1,2-b]pyridin 5,5-thiazolidine | FC=1C=C2CC=3C(=NC=CC3)C2=CC1.C1CCCN1 | InChI=1S/C12H8FN.C4H9N/c13-10-3-4-11-9(7-10)6-8-2-1-5-14-12(8)11;1-2-4-5-3-1/h1-5,7H,6H2;5H,1-4H2
